US08211908B2
To a suspension of 0.10 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride in 4 mL of methanol, 31 mg of sodium cyanoborohydride cyanoborohydride, 44 μL of 4-fluoro-3-methylbenzaldehyde, 39 mg of a 28% sodium methoxide/methanol solution and 42 μL of acetic acid were added, and the mixture was stirred at room temperature for 1 hour 15 minutes. Thereto were added 44 μL of 4-fluoro-3-methylbenzaldehyde and 31 mg of sodium cyanoborohydride cyanoborohydride, and the mixture was stirred at the same temperature for 45 minutes. Thereto were further added 44 μL of 4-fluoro-3-methylbenzaldehyde and 31 mg of sodium cyanoborohydride, and the mixture was stirred at the same temperature for 30 minutes. A saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added thereto, and the organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=10:1. The resultant residue was dissolved in 2 mL of ethyl acetate, and thereto was added 1 mL of a 4.0 mol/L hydrogen chloride/ethyl acetate solution at room temperature. The solvent was distilled off under reduced pressure, ethyl acetate was added to the resultant residue and the solid was filtered off to obtain 54 mg of 1-(2-(4-((4-fluoro-3-methylbenzyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.10 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | sodium cyanoborohydride cyanoborohydride | 31 mg | C(#N)[BH3-].C(#N)[BH3-].[Na+]
reactant | 4-fluoro-3-methylbenzaldehyde | 44 μL | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 4-fluoro-3-methylbenzaldehyde | 44 μL | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | sodium cyanoborohydride cyanoborohydride | 31 mg | C(#N)[BH3-].C(#N)[BH3-].[Na+]
reactant | 4-fluoro-3-methylbenzaldehyde | 44 μL | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | sodium cyanoborohydride | 31 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 42 μL | C(C)(=O)O | C2H4O2
product | 1-(2-(4-((4-fluoro-3-methylbenzyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 54 mg | Cl.FC1=C(C=C(CNC2CCN(CC2)CCN2C(C=CC3=NC=C(C=C23)OC)=O)C=C1)C | InChI=1S/C24H29FN4O2.ClH/c1-17-13-18(3-4-21(17)25)15-26-19-7-9-28(10-8-19)11-12-29-23-14-20(31-2)16-27-22(23)5-6-24(29)30;/h3-6,13-14,16,19,26H,7-12,15H2,1-2H3;1H
